Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Biaxin / Amoxicillin
 
Attending: ___.
 
Chief Complaint:
Acute onset of right facial weakness.
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ is a ___ right handed woman with PMH significant for
HTN and RA who presents with acute onset of right facial
weakness. The patient reports that she woke up in her usoh.
Around 9:30am she began to feel some parasthesias in her right
face around the mouth and extending up towards the eye. Around
10am she looked in the mirror and found that her right face
wasn't moving normally. She was talking to her daughter on the
phone at that point and left like her mouth/tongue wasn't moving
right. This prompted her presentation to the ED and she was
triggered as a Code stroke. 

On neuro ROS: the pt denies headache, loss of vision, blurred
vision, diplopia, oscilopsia, dysarthria, dysphagia, drop
attacks, lightheadedness, vertigo, tinnitus or hearing
difficulty. Denies difficulties producing or comprehending
speech. Denies focal weakness, numbness, paresthesias. No bowel
or bladder incontinence or retention. Denies difficulty with
gait. Denies any potential exposure to tics.

On general ROS: the pt denies recent fever or chills. No night
sweats or recent weight loss or gain. Denies cough, shortness of
breath. Denies chest pain or tightness, palpitations. Denies
nausea, vomiting, diarrhea, constipation or abdominal pain. No
recent change in bowel or bladder habits. No dysuria. Denies
arthralgias or myalgias. Denies rash.

 
Past Medical History:
HTN
GERD
Asthma
RA

 
Social History:
___
Family History:
Father: lung CA
mother: DM dementia 
aunt: brain AVM

 
Physical Exam:
ADMISSION EXAMINATION
HR: 99 BP: 153/96 RR: 18 Sat: 100% on RA 

GENERAL MEDICAL EXAMINATION:
General appearance: alert, in no apparent distress, well
nourished, conversing/interacting appropriately 
HEENT: Neck is supple, non-tender. Sclera are non-injected.
Mucous membranes are moist. 
CV: Heart rate is regular
Lungs: Breathing comfortably on RA 
Abdomen: soft, non-tender 
Extremities: No evidence of deformities. No contractures. No
Edema. 
Skin: No visible rashes. Warm and well perfused.

NEUROLOGICAL EXAMINATION:
Mental Status: Alert and oriented to person place and time. Able
to relate history without difficulty. Attentive: able to name 
___
backward without difficulty. Language is fluent and appropriate
with intact comprehension, reading, repetition and naming of 
both
high and low frequency objects. Normal prosody. There were no
paraphasic errors. Speech was not dysarthric. Able to follow 
both
midline and appendicular commands. No neglect, left/right
confusion or finger agnosia. 

Cranial Nerves:
I: not tested
II: visual fields full to confrontation.
III-IV-VI: pupils equally round, reactive to light. Normal
conjugated, extra-ocular eye movements in all directions of 
gaze.
No nystagmus or diplopia.
V: Symmetric perception of LT in V1-3 
VII: Subtle right sided lower facial asymmetry. decreased
activation of the lower right obicularis oris or depressor 
anguli
oris. no significant asymmetry at rest. taste is symmetric to
salt water. 
VIII: Hearing intact to finger rub bl
IX-X: Palate elevates symmetrically
XI: Shoulder shrug ___ bl 
XII: No tongue deviation or fasciculations

Motor: Normal muscle bulk and tone throughout. No pronator drift
or orbiting. No rebound
Strength:
  Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
L  5    ___   ___  5   5    5  5     5     5   5
R  5    ___   ___  5   5    5  5     5     5   5

Reflexes:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1
Toes are down going bilaterally.

Sensory: normal and symmetric perception of pinprick, light
touch, vibration and temperature. Proprioception is intact. No
agraphesthesia or astereognosis. No extinction to DSS.

Coordination: Finger to nose and heel to shin without dysmetria
bilaterally. No intention tremor. RAM were symmetric with regard
to cadence and speed, no dysdiadochokinesia noted.

Gait: Good initiation. Narrow-based, normal stride and arm 
swing.
Able to heel, toe and tandem walk. Can stand and hop on either
lower extremity. Stance is stable, Romberg is negative. No
truncal ataxia.

DISCHARGE EXAMINATION:

CN: IMPROVED LEFT LOWER FACE WEAKNESS.
EXAM OTHERWISE UNCHANGED. 
 
Pertinent Results:
LABS: 

___ 11:30AM BLOOD WBC-6.4 RBC-4.19 Hgb-13.8 Hct-40.6 
MCV-97# MCH-32.9* MCHC-34.0 RDW-11.6 RDWSD-41.1 Plt ___
___ 11:30AM BLOOD Plt ___
___ 11:30AM BLOOD UreaN-12
___ 11:30AM BLOOD ALT-13 AST-31 AlkPhos-51 TotBili-0.9
___ 11:30AM BLOOD cTropnT-<0.01
___ 11:30AM BLOOD Albumin-4.6 Calcium-9.3 Phos-3.0 Mg-1.9
___ 11:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 11:40AM BLOOD Glucose-101 Lactate-1.5 Na-138 K-4.4 
Cl-102 calHCO3-25
___ 01:10PM URINE Color-Straw Appear-Clear Sp ___
___ 01:10PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-TR Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 01:10PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG

IMAGING:

ECHO: Normal study. Normal biventricular cavity sizes with 
preserved regional and global biventricular systolic function. 
No valvular pathology or pathologic flow identified. No definite 
structural cardiac source of embolism identified.

MRI/MRA BRAIN: 
1. Unremarkable MRA of the brain. 
2. Normal MRI of the brain with and without gadolinium. 
  
CT HEAD W/O CONTRAST:
No acute intracranial process on non contrast head CT.  No 
intracranial hemorrhage. 
  

 
Brief Hospital Course:
___ is a ___ right handed woman with PMH significant for 
HTN and RA who presents with acute onset of right facial 
weakness. Code stroke was activated. tPA was not given due to 
NIHSS of 1. MRI brain with contrast did not show an acute 
infarct, neoplasm, or enhancement of right CN 7. MRA of the 
brain did not show intracranial stenosis. In light of her age 
and relatively minimal risk factors (though RA and HTN are 
stroke risk factors), the differential includes an MRI negative 
stroke versus a peripheral ___ nerve palsy (bells) that may 
still be evolving. Given that there was no right upper facial 
weakness and that her right lower facial weakness was improving 
slightly over the course of the day, and the lack of hearing or 
taste changes on the right side, this argues against a right 
peripheral ___ nerve palsy. Ms. ___ did not want to stay in 
the hospital to complete the brain ischemia workup. She will be 
discharged with neuro urgent care follow up and outpatient 
workup.

TRANSITIONAL ISSUES: 
1. COMPLETE STROKE W/U WITH:
-glycated hemoglobin
-fasting lipid panel
-Lyme serology
-echocardiogram

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 2 PUFF IH Frequency is Unknown 
2. Amlodipine 5 mg PO DAILY 
3. Hydroxychloroquine Sulfate 400 mg PO DAILY 
4. Pantoprazole 20 mg PO Q12H 

 
Discharge Medications:
1. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
2. Hydroxychloroquine Sulfate 400 mg PO DAILY 
3. Pantoprazole 20 mg PO Q12H 
4. Aspirin 81 mg PO DAILY 
RX *aspirin [Adult Low Dose Aspirin] 81 mg 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*3
5. Amlodipine 5 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
1. Right sided facial weakness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear ___, 

___ were admitted with right lower facial weakness and sensory 
changes concerning for a transient ischemic attack. In the 
hospital a code stroke was called and your brain was imaged with 
CT and MRI, your vessels were also imaged and no acute process 
was found. this is concerning for a bell's palsy, as well as 
transient ischemic attack or MRI negative stroke. At this time 
we recommend: 

1. Please continue all your medications as directed by this 
document. Note that we have started ___ on aspirin 81mg oral 
daily.
2. Please keep all your follow up appointments as below.
3. ___ should see your primary care doctor within ___ week from 
discharge, as well as follow with neuro urgent care. The clinic 
will call ___ with an appointment.  
4. ___ will need outpatient work up which includes: checking 
your glycated hemoglobin, a fasting lipid panel, Lyme serology, 
and an echocardiogram.  
 
Followup Instructions:
___